US06828460B2
[4-(2,4-Dihydroxyphenyl)cyclohexyl]methyl Propionate
A mixture of [4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl]methyl propionate (110 mg), methanol (10 ml) and Amberlyst fluoride resin (0.4 g) were stirred at room temperature for 72 hr. The reaction mixture was filtered, and the filtrate was evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, ethyl acetate/petrol, 1:2 v/v) to give the title compound as a cream solid and a mixture of diastereoisomers (44 mg, 73%). δH(CDCl3) 1.17 (3H, t), 1.38-2.14 (9H, m), 2.34-2.40 (2H, q), 2.64-2.80 (1H, m), 3.96 (0.6H, d), 4.20 (0.4H, d), 5.10-5.24 (2H, m), 6.28-6.33 (1H, m), 6.36-6.40 (1H, m), 6.98 (1H, dd); m/z (ES+) 279 (M+H)+.

reactant | [4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl]methyl propionate | 110 mg | C(CC)(=O)OCC1CCC(CC1)C1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C28H50O4Si2
reactant | fluoride | 0.4 g | [F-]
solvent | methanol | 10 ml | CO | CH4O
product | [4-(2,4-Dihydroxyphenyl)cyclohexyl]methyl Propionate | C(CC)(=O)OCC1CCC(CC1)C1=C(C=C(C=C1)O)O | C16H22O4
